US08541455B2
According to the process described in Example 1.3, starting with 0.19 g of methyl 2-benzyl-3-oxopropanoate and 0.4 g of N-[3-(benzyloxy)propyl]-N-cyclopentyl-6-hydrazinylpyridine-3-sulfonamide, 0.29 g of 6-(4-benzyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-[3-(benzyloxy)propyl]-N-cyclopentylpyridine-3-sulfonamide is obtained in the form of a beige-coloured solid.

reactant | methyl 2-benzyl-3-oxopropanoate | 0.19 g | C(C1=CC=CC=C1)C(C(=O)OC)C=O | C11H12O3
reactant | N-[3-(benzyloxy)propyl]-N-cyclopentyl-6-hydrazinylpyridine-3-sulfonamide | 0.4 g | C(C1=CC=CC=C1)OCCCN(S(=O)(=O)C=1C=NC(=CC1)NN)C1CCCC1 | C20H28N4O3S
product | 6-(4-benzyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-[3-(benzyloxy)propyl]-N-cyclopentylpyridine-3-sulfonamide | 0.29 g, Yield=55% | C(C1=CC=CC=C1)C1=CNN(C1=O)C1=CC=C(C=N1)S(=O)(=O)N(C1CCCC1)CCCOCC1=CC=CC=C1 | C30H34N4O4S
